US06310211B1
N-(4-Chlorophenyl)-8-hydroxy-7-quinolinecarboxamide (Formula G-3 wherein R1 is —H) Refer to Chart G
A solution of 8-hydroxyquinoline-7-carboxylic acid (3.78 g) of Preparation 1 and 4-chloroaniline (2.55 g) in 250 mL xylenes is heated to reflux. To this is added dropwise PCl3 (1.37 g). Refluxing is continued overnight. The reaction is then cooled and water is added to destroy excess PCl3. The resulting solid is collected, washed with water and dried. The crude product is recrystallized from EtOAc/hexanes to yield 1.96 g of the title product as an orange solid.

reactant | 8-hydroxyquinoline-7-carboxylic acid | 3.78 g | OC=1C(=CC=C2C=CC=NC12)C(=O)O | C10H7NO3
reactant | 4-chloroaniline | 2.55 g | ClC1=CC=C(N)C=C1 | C6H6ClN
reactant | PCl3 | 1.37 g | P(Cl)(Cl)Cl | Cl3P
solvent | water | O | H2O
product | N-(4-Chlorophenyl)-8-hydroxy-7-quinolinecarboxamide | 1.96 g | ClC1=CC=C(C=C1)NC(=O)C1=CC=C2C=CC=NC2=C1O | C16H11ClN2O2
